US07427612B2
3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-azepan-1-yl-benzonitrile
A mixture of 30.1 mg (0.7 mmol) 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-bromo-benzonitrile, 30 ul (0.175 mmol) DIPEA and 91 ul (0.91 mmol) of a 1M solution of azepane in DMF was heated to 100° C. for 24 h. After removal of THF 2 ml dioxane, 180 ul of a 1M solution of azepane in DMF and 30 ul (0.175 mmol) DIPEA were added and the mixture was heated to 120° C. for 16 h. After evaporation of all volatiles the residue was taken up in 1 ml MeOH/formic acid 6/1 and subjected to reversed phase HPLC purification eluting with an acetonitrile/water gradient to yield after evaporation of the product fractions 9.3 mg (30%) of the title compound. MS (m/e): 449.2 (MH+, 100%)

reactant | 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-bromo-benzonitrile | 0.7 mmol, 30.1 mg | C(C)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)C=1C=C(C#N)C=CC1Br)F | C20H17BrFN3O2
reactant | DIPEA | 0.175 mmol, 30 ul | CCN(C(C)C)C(C)C | C8H19N
reactant | azepane | N1CCCCCC1 | C6H13N
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | DIPEA | 0.175 mmol, 30 ul | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-azepan-1-yl-benzonitrile | C(C)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)C=1C=C(C#N)C=CC1N1CCCCCC1)F | C26H29FN4O2
